US06740755B2
Hydrolysis of the crude diethyl 2-acetyl-2-methyl-suberate with concentrated hydrochloric acid gave a quantitative yield of 7-methyl-8-oxo-nonanoic acid.

reactant | diethyl 2-acetyl-2-methyl-suberate | C(C)(=O)C(C(=O)OCC)(CCCCCC(=O)OCC)C | C15H26O5
reactant | hydrochloric acid | Cl | ClH
product | 7-methyl-8-oxo-nonanoic acid | quantitative yield | CC(CCCCCC(=O)O)C(C)=O | C10H18O3
